US09102654B2
3-(3-Chloro-1H-pyrazol-1-yl)pyridine (5b)
3-Chloro-1-(pyridine-3-yl)-4,5-dihydro-1H-pyrazole-5-carbonitrile (0.500 g, 2.42 mmol) was stirred in N,N-dimethylformamide (6.05 mL). 1,8-Diazabicyclo[5.4.0]undec-7-ene (0.543 mL, 3.63 mmol) was added and the dark mixture was stirred at room temperature overnight. LC/MS analysis indicated that the reaction was complete. The mixture was concentrated and the dark oil was dissolved in ethyl acetate and washed with 15% aqueous lithium chloride (LiCl) and brine. The organic portion was dried over sodium sulfate (Na2SO4) and concentrated. The residue was purified by flash column chromatography using ethyl acetate. The pure fractions were concentrated and the residue was vacuum dried at 45° C. to yield the desired product as a white solid (450 mg, 93%): mp: 66-68° C.; 1H NMR (400 MHz, CDCl3) δ 8.93 (d, J=27 Hz, 1H), 8.57 (dd, J=4.8, 1.4 Hz, 1H), 8.02 (ddd, J=8.3, 2.7, 1.5 Hz, 1H), 7.91 (d, J=2.6 Hz, 1H), 7.47-7.34 (m, 1H), 6.45 (d, J=2.6 Hz, 1H); 13C NMR (101 MHz, CDCl3) δ 148.01, 142.72, 140.12, 135.99, 128.64, 126.41, 124.01, 108.0.

reactant | 3-Chloro-1-(pyridine-3-yl)-4,5-dihydro-1H-pyrazole-5-carbonitrile | 2.42 mmol, 0.500 g | ClC1=NN(C(C1)C#N)C=1C=NC=CC1 | C9H7ClN4
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 3.63 mmol, 0.543 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | N,N-dimethylformamide | 6.05 mL | CN(C=O)C | C3H7NO
product | 3-(3-Chloro-1H-pyrazol-1-yl)pyridine | 450 mg, 93% | ClC1=NN(C=C1)C=1C=NC=CC1 | C8H6ClN3
